US07981892B2
N-(1-(4-(4-Cyanophenyl)phthalazin-1-yl)piperidin-4-yl)-4-fluoro-N-methyl-2-(trifluoromethyl)benzamide hydrochloride
Charge a 4 mL reaction vial with 4-(4-(4-(methylamino)piperidine -1-yl)phthalazin -1-yl)benzonitrile dihydrochloride (44.7 mg, 0.107 mmol), dichloromethane (1 mL), and triethylamine (0.0598 mL, 0.429 mmol). Flush the reaction vial with nitrogen and add 4-fluoro-2-(trifluoromethyl)benzoyl chloride (033 g. 0.14 mmol). Cap the vial and allow the reaction to stir at room temperature overnight. Evaporate to a residue and purify using silica gel chromatography (40:60, ethyl acetate:hexane, then ethyl acetate). Add 1 N HCl in diethyl ether to a solution of the isolated product in dichloromethane/methanol and remove the solvents by placing under a stream of nitrogen gas. Dry in a vacuum oven at 50° C. to obtain the title compound (36.0 mg. 59%). ES/MS m/z 533.8 (M+1).

reactant | 4-(4-(4-(methylamino)piperidine -1-yl)phthalazin -1-yl)benzonitrile dihydrochloride | 0.107 mmol, 44.7 mg | Cl.Cl.CNC1CCN(CC1)C1=NN=C(C2=CC=CC=C12)C1=CC=C(C#N)C=C1
reactant | triethylamine | 0.429 mmol, 0.0598 mL | C(C)N(CC)CC | C6H15N
reactant | 4-fluoro-2-(trifluoromethyl)benzoyl chloride | 0.14 mmol | FC1=CC(=C(C(=O)Cl)C=C1)C(F)(F)F | C8H3ClF4O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-(1-(4-(4-Cyanophenyl)phthalazin-1-yl)piperidin-4-yl)-4-fluoro-N-methyl-2-(trifluoromethyl)benzamide hydrochloride | 36.0 mg, 59% | Cl.C(#N)C1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)N1CCC(CC1)N(C(C1=C(C=C(C=C1)F)C(F)(F)F)=O)C | InChI=1S/C29H23F4N5O.ClH/c1-37(28(39)24-11-10-20(30)16-25(24)29(31,32)33)21-12-14-38(15-13-21)27-23-5-3-2-4-22(23)26(35-36-27)19-8-6-18(17-34)7-9-19;/h2-11,16,21H,12-15H2,1H3;1H
